US05292749
(R)-3-Quinuclidinyl (RS)-2-phenyl-3-(pyrazin-2-yl)propanoate
A solution of (R)-3-quinuclidinyl 2-phenyl-3-(pyrazin-2-yl)acrylate (see Preparation 4) (350 mg) in ethanol (20 ml) containing 10% palladium-on-carbon (30 mg) was stirred for 24 hours under an atmosphere of hydrogen [344.7 kPa (50 psi)] at room temperature. The mixture was filtered and evaporated to leave the title compound as an oil (320 mg, 91%).

reactant | (R)-3-quinuclidinyl 2-phenyl-3-(pyrazin-2-yl)acrylate | 350 mg | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)=CC2=NC=CN=C2 | C20H21N3O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 30 mg | [Pd] | Pd
product | (R)-3-Quinuclidinyl (RS)-2-phenyl-3-(pyrazin-2-yl)propanoate | 320 mg, 91% | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)CC2=NC=CN=C2 | C20H23N3O2
